US06620842B2
1-[3-Methyl-7-(Prop-2-ynyloxy)flavon-8-yl]-Phenyl-Propen-1-one (See Accompanying Formula Drawing VIB 167).
A solution of KOH 50% (3 ml) is added to an equimolar solution of 7-(prop-2-ynyloxy) -8-acetyl-3-methylflavone (2.49 g, 0.0075 mol) and benzaldehyde (0.8 g, 0.0075 mol) in ethanol 95%. The addition is performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified; the precipitate is separated by filtration and dried under vacuum. The compound is crystallized by methanol to give 2.8 g of product m.p. 157-59° C., 1H-NMR (CDCl3)δ: 2.20 (s, 3H); 2.56 (s, 1H); 4.86 (d, 2H, J=2.2 Hz); 7.05 (d, 1H, J=16 Hz); 7.23 (d, 1H, J=8.9 Hz); 7.31-7.50 (m, 7H); 7.50-7.57 (m, H); 8,34 (d, 1H, J=8.9 Hz).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 7-(prop-2-ynyloxy) -8-acetyl-3-methylflavone | 0.0075 mol, 2.49 g | C(C#C)OC1=CC=C2C(C(=C(OC2=C1C(C)=O)C1=CC=CC=C1)C)=O | C21H16O4
reactant | benzaldehyde | 0.0075 mol, 0.8 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[3-Methyl-7-(Prop-2-ynyloxy)flavon-8-yl]-Phenyl-Propen-1-one | 2.8 g | CC1=C(OC2=C(C(=CC=C2C1=O)OCC#C)C1(CC=CC=C1)C(C=C)=O)C1=CC=CC=C1 | C28H22O4
